US04252820
135 g of 3,3-dimethyl-4,6,6-trichloro-7,7,7-trifluoroenanthic acid methyl ester were added dropwise to a solution of 20.7 g of sodium in 300 ml of ethanol at room temperature in the course of 3 hours, while stirring. The mixture was subsequently stirred at room temperature for 1 hour and then heated to 45° C. for 7 hours. After cooling, sodium chloride which had separated out was filtered off, the filtrate was concentrated somewhat in vacuo, the residue was added to 500 ml of water and the mixture was rendered neutral. Extraction with methylene chloride and fractional distillation gave 90 g of 2,2-dimethyl-3-(2'-chloro-3',3',3'-trifluoropropenyl)-cyclopropanecarboxylic acid ethyl ester (isomer mixture) of boiling point: 55°-57° C./0.2 mm Hg.

reactant | 3,3-dimethyl-4,6,6-trichloro-7,7,7-trifluoroenanthic acid methyl ester | 135 g | COC(CC(C(CC(C(F)(F)F)(Cl)Cl)Cl)(C)C)=O | C10H14Cl3F3O2
reactant | sodium | 20.7 g | [Na] | Na
reactant | ethanol | 300 ml | C(C)O | C2H6O
product | 2,2-dimethyl-3-(2'-chloro-3',3',3'-trifluoropropenyl)-cyclopropanecarboxylic acid ethyl ester | 90 g | C(C)OC(=O)C1C(C1C=C(C(F)(F)F)Cl)(C)C | C11H14ClF3O2
